US05057614
A solution of 804 mg of 3-(1-methyl-3-indolyl)-4-[1-methyl-2-(methylthio)-3-indolyl]furan-2,5-dione in 12 ml of DMF and 50 ml of 33% aqueous ammonia was heated to 130° C. for 2 hours. The product was filtered off and dried to give 675 mg of 3-(1-methyl-3-indolyl)-4-[1-methyl-2-(methylthio)-3-indolyl]-1H-pyrrole-2,5-dione, m.p. 281°-283° C.

reactant | 3-(1-methyl-3-indolyl)-4-[1-methyl-2-(methylthio)-3-indolyl]furan-2,5-dione | 804 mg | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=C(N(C2=CC=CC=C12)C)SC)=O)=O | C23H18N2O3S
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 50 ml | N | H3N
product | 3-(1-methyl-3-indolyl)-4-[1-methyl-2-(methylthio)-3-indolyl]-1H-pyrrole-2,5-dione | 675 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=C(N(C2=CC=CC=C12)C)SC)=O)=O | C23H19N3O2S
